US04777270
2-Bromo-5-t-butyl-1,3-dimethylbenzene
To a solution of 200 g (1.23 mole) 5-t-butyl-1,3-dimethylbenzene and 83 ml (1.23 mole) propylene oxide in 500 ml of methylene chloride at 15° C. or less, 63 ml (1.23 mole) bromine was added dropwise while maintaining the solution temperature at 15° C. or less. The reaction mixture was allowed to warm to 25° C. overnight. A 200 ml solution of 5% by weight of potassium hydroxide in water was added and the resulting two phase system was stirred for 1 hr at 25° C. The organic phase was washed with water and dried over anhydrous magnesium sulfate. After solvent evaporation an oil was left which when crystallized from methanol gave 265 g (87% yield) of the title compound after drying in vacuo. The oil could also be purified by distilling at 61°-70° C. under a reduced pressure of 0.25 mm of mercury.

reactant | 5-t-butyl-1,3-dimethylbenzene | 1.23 mole, 200 g | C(C)(C)(C)C=1C=C(C=C(C1)C)C | C12H18
reactant | propylene oxide | 1.23 mole, 83 ml | C1C(C)O1 | C3H6O
reactant | bromine | 1.23 mole, 63 ml | BrBr | Br2
reactant | potassium hydroxide | [OH-].[K+]
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-Bromo-5-t-butyl-1,3-dimethylbenzene | 265 g, 87% yield | BrC1=C(C=C(C=C1C)C(C)(C)C)C | C12H17Br
